US08003785B2
To a mixture of 0.080 g (0.18 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.0849 g (0.22 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 2 mL of dichloromethane, 0.11 mL of triethylamine was added followed by 0.05 mL of 3-morpholin-4-yl-propylamine. After 2 hours, 6 mL of dichloromethane, 4 mL of water and 0.2 mL of 1M sodium hydroxide was added. The dichloromethane layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with ethyl acetate-methanol-ammonium hydroxide (91:9:0.8) to give 0.0608 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(3-morpholin-4-yl-propyl)-benzamide (I-79).

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.18 mmole, 0.080 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.22 mmole, 0.0849 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 3-morpholin-4-yl-propylamine | 0.05 mL | N1(CCOCC1)CCCN | C7H16N2O
reactant | sodium hydroxide | 1M, 0.2 mL | [OH-].[Na+]
solvent | water | 4 mL | O | H2O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(3-morpholin-4-yl-propyl)-benzamide | 0.0608 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN1CCOCC1)C=C2)OC | C28H37F2N7O4
